### PR TITLE
feat: add `BitVec.(getMsbD, msb)_(rotateLeft, RotateRight)`

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

**Comment by bollu** [comment]
@luisacicolini High-level comment: What we do in this proof is to play games to rewrite `rotateLeft` into `rotateLeftAux`, while trying to juggle the `lsb/msb` mismatch. I almost feel that we should write a variant of the `rotateLeftAux` theorems for `msb`, and then follow the same proof strategy as we do for `getLsb` to get the `getMsb` theorems. I suspect that the proof we have now will adapt (easily?) to prove properties of `rotateLeftAux`, since we start our proof with:

```lean
rw [← rotateLeft_mod_eq_rotateLeft]
...
rw [rotateLeft_eq_rotateLeftAux_of_lt (by assumption)]
```

So I feel it's worth it to write a clearer proof directly in terms of `rotateLeftAux`

**Comment by luisacicolini** [comment]
thanok you @bollu. So, if I understand correctly, we now want `getMsbD_rotateLeftAux_of_geq`, `getMsbD_rotateLeftAux_of_le`, `getMsbD_rotateRightAux_of_geq`, `getMsbD_rotateRightAux_of_le`, correct?

**Comment by bollu** [comment]
@luisacicolini Correct.

**Comment by luisacicolini** [comment]
Thank you @bollu. I just pushed all the theorems, including the helper ones, following a similar proving strategy as `getLsbD` theorems.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2638,6 +2638,50 @@ theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
       if h' : i < r % w then x[(w - (r % w) + i)] else x[i - (r % w)] := by
   simp [← BitVec.getLsbD_eq_getElem, h]
 
+theorem add_mod_eq_add_sub {w : Nat} {a b : Nat} (hab_ge : a + b ≥ w) (hab_lt : a + b < 2 * w) :
+    (a + b) % w = a + b -  w := by
+  rw [Nat.mod_eq_sub_mod, Nat.mod_eq_of_lt (by omega)]
+  omega
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2644]:
```suggestion
theorem add_mod_eq_add_sub {w : Nat} {a b : Nat} (hab_ge : a + b ≥ w) (hab_lt : a + b < 2 * w) :
    (a + b) % w = a + b -  w := by
  rw [Nat.mod_eq_sub_mod, Nat.mod_eq_of_lt (by omega)]
  omega
```

This can be generalized by setting $a + b = x$, and writing the statement accordingly. Also, we should make the theorm `private`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2638,6 +2638,50 @@ theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
...
+      · simp only [h₁, decide_True, Bool.true_and]
+        have h₂ : (r + n) < 2 * (w + 1) := by omega
+        rw [add_mod_eq_add_sub (by omega) (by omega)]
+        congr 1
+        omega
+      · simp [h₁]
+
+theorem getMsbD_rotateLeft {r n w : Nat} {x : BitVec w} :
+    (x.rotateLeft r).getMsbD n = (decide (n < w) && x.getMsbD ((r + n) % w)) := by
+  rcases w with rfl | w
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2673]: A comment on the theorem, modeled after `getLsb` would be nice

**Review by bollu — COMMENTED** [review]
LGTM, modulo the change I asked for!

**Comment by luisacicolini** [comment]
I will now close this PR and open one to lean4.
